US08138197B2
Ethyl 1-cyclopropyl-4-{[(trifluoromethyl)sulfonyl]oxy}-1H-indole-6-carboxylate
In a 500-mL egg plant-type flask, a chloroform (50 mL) solution of trifluoromethanesulfonic acid anhydride (6.30 mL, 37.5 mmol) was dropwise added to a chloroform (100 mL) solution of ethyl 1-cyclopropyl-4-hydroxy-1H-indole-6-carboxylate (6.12 g, 25 mmol) and pyridine (6.06 mL, 75 mmol) with cooling with ice, and stirred at that temperature for 30 minutes, then poured into aqueous hydrochloric acid solution, extracted with chloroform, washed with aqueous saturated sodium hydrogencarbonate solution, and dried with sodium sulfate. The reaction solution was filtered, concentrated, and purified through silica gel column chromatography (Biotage [SiO2, 40+M]) with a hexane/ethyl acetate developer system to obtain the title compound as a colorless oil.

reactant | trifluoromethanesulfonic acid anhydride | 37.5 mmol, 6.30 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | ethyl 1-cyclopropyl-4-hydroxy-1H-indole-6-carboxylate | 25 mmol, 6.12 g | C1(CC1)N1C=CC2=C(C=C(C=C12)C(=O)OCC)O | C14H15NO3
reactant | pyridine | 75 mmol, 6.06 mL | N1=CC=CC=C1 | C5H5N
reactant | hydrochloric acid | Cl | ClH
solvent | chloroform | 100 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
product | Ethyl 1-cyclopropyl-4-{[(trifluoromethyl)sulfonyl]oxy}-1H-indole-6-carboxylate | C1(CC1)N1C=CC2=C(C=C(C=C12)C(=O)OCC)OS(=O)(=O)C(F)(F)F | C15H14F3NO5S
